US07015213B1
6-(2-chlorophenyl)-7,10-dihydro-1-methyl-N-(2-trifluoromethylphenyl)-4H-pyrido[4′,3′;4,5]thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-9(8H)-carbothioamide
A mixture containing 2-trifluoromethylphenyl isothiocyanate (0.82 g, 0.004 mol) and 6-(2-chlorophenyl)-7,8,9,10-tetrahydro-1-methyl-4H-pyrido[4′,3′;4,5]thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine (1 g, 0.0027 mol) in 30 ml of 1,2-dichloroethane is agitated for 4 hours and at a temperature close to 20° C. Half the solvent is evaporated off with the rotary evaporator then 10 ml of ether is added. Agitation is carried out for 20 minutes at a temperature close to 20° C. followed by filtering on frit then washing with 20 ml of ether, with 20 ml of isopropyl ether and with 20 ml of isopentane. After drying under vacuum a cream coloured solid is obtained (1.21 g, 78%). Melting point: 190–192° C.

reactant | 2-trifluoromethylphenyl isothiocyanate | 0.004 mol, 0.82 g | FC(C1=C(C=CC=C1)N=C=S)(F)F | C8H4F3NS
reactant | 6-(2-chlorophenyl)-7,8,9,10-tetrahydro-1-methyl-4H-pyrido[4′,3′;4,5]thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 0.0027 mol, 1 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C1=C(S3)CNCC1)C(=NN2)C | C18H16ClN5S
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | 6-(2-chlorophenyl)-7,10-dihydro-1-methyl-N-(2-trifluoromethylphenyl)-4H-pyrido[4′,3′;4,5]thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-9(8H)-carbothioamide | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C1=C(S3)CN(CC1)C(NC1=C(C=CC=C1)C(F)(F)F)=S)C(=NN2)C | C26H20ClF3N6S2
